US09382238B2
To a mixture of 2-(1,1,1-trifluoro-2-methylpropan-2-yl)pyridin-4(1H)-one (300 mg, 1.462 mmol) in H2SO4 (8 mL, 150 mmol) was added nitric acid (3.27 mL, 73.1 mmol). The mixture was stirred at 90° C. for 15 h. Then the mixture was added to ice water and basified by aqueous NaOH solution. The mixture was filtered. The filtrate was concentrated and purified by preparative TLC (DCM/MeOH=9:1, Rf=0.1) to yield a light yellow solid of 5-nitro-2-(1,1,1-trifluoro-2-methylpropan-2-yl)pyridin-4(1H)-one (100 mg, 0.380 mmol, 26.0% yield): 1H NMR (400 MHz, CD3OD): δ 8.82 (s, 1H), 6.95 (s, 1H), 1.64 (s, 6H). ES-LCMS m/z 251.1 (M+H).

reactant | 2-(1,1,1-trifluoro-2-methylpropan-2-yl)pyridin-4(1H)-one | 1.462 mmol, 300 mg | FC(C(C)(C)C=1NC=CC(C1)=O)(F)F | C9H10F3NO
reactant | H2SO4 | 150 mmol, 8 mL | OS(=O)(=O)O | H2O4S
reactant | nitric acid | 73.1 mmol, 3.27 mL | [N+](=O)(O)[O-] | HNO3
reactant | NaOH | [OH-].[Na+]
product | 5-nitro-2-(1,1,1-trifluoro-2-methylpropan-2-yl)pyridin-4(1H)-one | 0.380 mmol, 100 mg, 26.0% yield | [N+](=O)([O-])C=1C(C=C(NC1)C(C(F)(F)F)(C)C)=O | C9H9F3N2O3
